US05631373
7-Chloro-1,4-dihydro-6-methyl-5-nitroquinoxaline-2,3-dione.
To a stirred suspension of 7-chloro-3,4-Dihydro-6-methyl-quinoxaline-2(1H)-one (0.100 g, 0.51 mmol) in TFA (3.0 mL) prepared as in Example 8, excess fuming HNO3 (0.30 mL) was added and the resulting red solution was stirred overnight at room temperature. The solvent was removed under vacuum and the residue diluted with water (4.0 mL). The precipitated solid was filtered and dried under vacuum to yield 0.067 g (52%) pure (HPLC) title compound as a light yellow powder; mp-darkens at 340° C.; 1H NMR (DMSO-d6) δ2.184 (s, 3H), 7.263 (s, 1H), 11.948 (s, 1H), 12.144 (s, 1H); Anal for C9H6CIN3O4 ·H2O calcd C, 40.85; H, 2.28; N, 15.87, found C, 40.63; H, 2.05; N, 15.75.

reactant | 7-chloro-3,4-Dihydro-6-methyl-quinoxaline-2(1H)-one | 0.51 mmol, 0.100 g | ClC1=C(C=C2NCC(NC2=C1)=O)C | C9H9ClN2O
reactant | HNO3 | 0.30 mL | [N+](=O)(O)[O-] | HNO3
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-Chloro-1,4-dihydro-6-methyl-5-nitroquinoxaline-2,3-dione | ClC1=C(C(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-])C | C9H6ClN3O4
